US07807671B2
Preparation of N1-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-N2,N2-dimethyloxalamide (Compound B-20)
1-(7-amino-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (100 mg, 0.23 mmol) was dissolved in DMF (2 mL) and treated with N,N-dimethyloxamic acid (27 mg, 0.23 mmol), Hunig's base (0.14 mL, 0.8 mmol) and TBTU (81 mg, 0.25 mmol). The reaction mixture was stirred at rt for 18 h. Solvent was removed in vacuum and water was added. A solid precipitated out and it was collected by filtration, dissolved in DMF and purified using reverse phase prep HPLC to afford the title compound as a pale yellow solid (11 mg). 1HNMR (500 MHz, DMSO-D6) δ 8.47 (s, 1H), 8.16 (s, 1H), 7.70-7.50 (m, 5H), 5.76 (m, 1H), 4.10-3.10 (m, 6H), 3.16 (s, 6H). LCMS: m/e 535 (M+H)+, ret time 1.33 min (method 1).

reactant | 1-(7-amino-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.23 mmol, 100 mg | NC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)F | C20H18FN9O2
reactant | N,N-dimethyloxamic acid | 0.23 mmol, 27 mg | CN(C(C(=O)O)=O)C | C4H7NO3
reactant | Hunig's base | 0.8 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.25 mmol, 81 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N1-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-N2,N2-dimethyloxalamide | 11 mg | FC1=C2C(=C(N=C1)NC(C(=O)N(C)C)=O)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C24H23FN10O4
